US04183932
To a suspension of 1.38 g of 7-methoxy-5-phenylimidazo[1,2-a]quinazoline in 25 ml of tetrahydrofuran was added 0.38 g of lithium aluminum hydride, and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added dropwise 1 ml of water with ice-cooling, and the resulting precipitate was filtered off and washed with tetrahydrofuran. The filtrate was evaporated under reduced pressure and the residue was recrystallized from ethylacetate-isopropyl ether to give 1.1 g of 4,5-dihydro-7-methoxy-5-phenylimidazo[1,2-a]quinazoline, m.p. 178°-179° C. (decomp.).

reactant | 7-methoxy-5-phenylimidazo[1,2-a]quinazoline | 1.38 g | COC=1C=C2C(=NC=3N(C2=CC1)C=CN3)C3=CC=CC=C3 | C17H13N3O
reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-7-methoxy-5-phenylimidazo[1,2-a]quinazoline | 1.1 g | COC=1C=C2C(NC=3N(C2=CC1)C=CN3)C3=CC=CC=C3 | C17H15N3O
